US07705004B2
To a solution of 2-chloro-N-(1H-indazol-6-yl)-5-vinyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.11 g) in ethylacetate (5 mL) was added palladium on carbon (Pd/C) (0.1 g). The flask was then charged with H2. After 3 h, the Pd/C was filtered off, and the filtrate was concentrated to give 2-chloro-N-(1H-indazol-6-yl)-5-ethyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (84 mg).

reactant | 2-chloro-N-(1H-indazol-6-yl)-5-vinyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.11 g | ClC=1N=C(C2=C(N1)N(C=C2C=C)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C22H17ClN6O2S
solvent | ethylacetate | 5 mL | C(C)OC(C)=O | C4H8O2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 2-chloro-N-(1H-indazol-6-yl)-5-ethyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 84 mg | ClC=1N=C(C2=C(N1)N(C=C2CC)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C22H19ClN6O2S
